US07754739B2
2-(3-(tert-Butoxycarbonyl)phenyl)-3-methylpyridine 1-oxide (29.8 g, 104 mmol) was dissolved in a mixture of acetonitrile (662 mL) and pyridine (33.8 mL, 418 mmol) under an atmosphere of argon. 4-Methylbenzene-1-sulfonyl chloride (pTsCl, 25.9 g, 136 mmol) was added and the reaction mixture was heated at 75° C. for 5 hours. 2-Aminoethanol (166 mL, 2.75 mol) was added after allowing the reaction mixture to cool to room temperature. After one hour, the acetonitrile was evaporated and the crude product was partitioned between ethyl acetate and a saturated aqueous solution of sodium chloride. The layers were separated and the organic layer was evaporated to dryness and then purified on 1.5 kg of silica gel utilizing a gradient of 0-100% ethyl acetate in hexanes to yield tert-butyl 3-(6-amino-3-methylpyridin-2-yl)benzoate (15.2 g, 51%) as a white solid. ESI-MS m/z calc. 284.1, found 285.2 (M+1)+. Retention time 1.16 minutes. 1H NMR (400 MHz, DMSO-d6) δ 7.99-7.98 (m, 1H), 7.90-7.87 (m, 1H) 7.72-7.7.69 (m, 1H), 7.52 (t, J=7.7 Hz, 1H), 7.31 (d, J=8.3 Hz, 1H), 6.42 (d, J=8.3 Hz, 1H), 5.83 (s, 2H), 2.11 (s, 3H), 1.54 (s, 9H).

reactant | 2-(3-(tert-Butoxycarbonyl)phenyl)-3-methylpyridine 1-oxide | 104 mmol, 29.8 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=[N+](C=CC=C1C)[O-] | C17H19NO3
reactant | pyridine | 418 mmol, 33.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-Methylbenzene-1-sulfonyl chloride | 136 mmol, 25.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 2-Aminoethanol | 2.75 mol, 166 mL | NCCO | C2H7NO
solvent | acetonitrile | 662 mL | C(C)#N | C2H3N
product | tert-butyl 3-(6-amino-3-methylpyridin-2-yl)benzoate | 15.2 g, 51% | NC1=CC=C(C(=N1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C17H20N2O2
